US05843957
Preparation of N-[1-butyl-4-[3-{2-(p-toluenesulfonyloxy)ethoxy}phenyl]-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea
To a solution of N-[1-butyl-4-{3-(2-hydroxyethoxy)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea (2.02 g, 3.63 mmol) in THF (20 ml) were added p-toluenesulfonyl chloride (0.69 g, 3.63 mmol) and triethylamine (0.40 g, 3.99 mmol), and the mixture was stirred at 40°-50° C. for 8 hours. The mixture was poured into water, and extracted with ethyl acetate. The extract was washed with water, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The resultant was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:1) to give the title compound (1.40 g, 1.97 mmol).

reactant | N-[1-butyl-4-{3-(2-hydroxyethoxy)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 3.63 mmol, 2.02 g | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OCCO)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C33H40N4O4
reactant | p-toluenesulfonyl chloride | 3.63 mmol, 0.69 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 3.99 mmol, 0.40 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-[1-butyl-4-[3-{2-(p-toluenesulfonyloxy)ethoxy}phenyl]-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 1.97 mmol, 1.40 g | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OCCOS(=O)(=O)C1=CC=C(C=C1)C)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C40H46N4O6S
